US06288221B1
6-((6-((Biotinoyl)amino)hexanoyl)amino)hexanoyl propargyl amine
To a stirred solution of 6-((6-((Biotinoyl)amino)hexanoyl)amino)hexanoic acid, succinimidyl ester (biotin-NHS ester) (0.2 g, 0.35 mmol) in dry DMF (5 ml), propargyl amine (0.04 ml, 0.6 mmol) was added. A white precipitate formed within 15 min and the mixture was stirred overnight. The solvent was removed in vacuo and the compound was dissolved in CHCl3. Next the CHCl3 was slowly added to a stirred solution of hexane, forming a white precipitate, which on drying afforded 0.15 g (83%). Mass Spect. (FAB) MW 508 [M+]; NMR assigned. Crisp, G. T.; Gore, J. Syn. Comm. 1997, 27, 2203-2125

reactant | 6-((6-((Biotinoyl)amino)hexanoyl)amino)hexanoic acid, succinimidyl ester | 0.35 mmol, 0.2 g | C(CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12)(=O)NCCCCCC(=O)NCCCCCC(=O)ON1C(CCC1=O)=O | C26H41N5O7S
reactant | propargyl amine | 0.6 mmol, 0.04 ml | C(C#C)N | C3H5N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 6-((6-((Biotinoyl)amino)hexanoyl)amino)hexanoyl propargyl amine | C(CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12)(=O)NCCCCCC(=O)NCCCCCC(=O)NCC#C | C25H41N5O4S
